US05210287
the method in which 1,4-dichlorobenzene is sulfochlorinated with chlorosulfonic acid and then reduced to 2,5-dichlorothiophenol with zinc powder under acidic conditions, followed by reaction with monochloroacetic acid to yield 2,5-dichlorophenylthioglycolic acid (U.S. Pat. No. 3,440,288),

reactant | 1,4-dichlorobenzene | ClC1=CC=C(C=C1)Cl | C6H4Cl2
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | 2,5-dichlorothiophenol | ClC1=C(C=C(C=C1)Cl)S | C6H4Cl2S
reactant | monochloroacetic acid | ClCC(=O)O | C2H3ClO2
catalyst | zinc | [Zn] | Zn
product | 2,5-dichlorophenylthioglycolic acid | ClC1=C(C=C(C=C1)Cl)C(C(=O)O)S | C8H6Cl2O2S
